US05547950
(S)-N-[[3-[3,5-difluoro-4-[4-[2-(1-piperidinyl)ethyl]-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
The N-[[3-[3,5-difluoro-4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (1.00 g, 2.20 mmol) was dissolved in CH2Cl2 (6 mL) and cooled to 0° C. with an ice bath. Trifluoroacetic acid (20 mL) was added, the cooling bath removed, and the reaction mixture allowed to warm to ambient temperature over 1 h. The reaction mixture was then concentrated in vacuo and the residue dissolved in H2O (15 mL). The resultant solution was added to Bio Rad AG-1-X8 ion exchange resin (12 mL; OH- form, washed with H2O until neutral), additional H2O (5 mL) was added, and the mixture stirred for 10 min. The mixture was then filtered and the resin washed with additional H2O (3×5 mL). The aqueous filtrate was lyophilized to give 0.559 g (72%) of the title compound as a white solid with mp 108°-112° C. (dec).

reactant | N-[[3-[3,5-difluoro-4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 2.20 mmol, 1.00 g | FC=1C=C(C=C(C1N1CCN(CC1)C(=O)OC(C)(C)C)F)N1C(OC(C1)CNC(C)=O)=O | C21H28F2N4O5
reactant | Trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | (S)-N-[[3-[3,5-difluoro-4-[4-[2-(1-piperidinyl)ethyl]-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.559 g, 72% | FC=1C=C(C=C(C1N1CCN(CC1)CCN1CCCCC1)F)N1C(O[C@H](C1)CNC(C)=O)=O | C23H33F2N5O3
